US07022849B2
4-[[[6,7-Dimethoxy-2-(7-quinazolinylamino)-4-quinazolinyl]amino]methyl]benzenesulfonamide
A20 was prepared in an manner analogous to example A1 with the exception that in step A1.1 4-aminosulfonylbenzylamine hydrochloride was substituted for 4-methylsulfonylbenzylamine hydrochloride, and in step A1.2, 7-aminoquinazoline (prepared according to the literature procedure of Naff, et. al. J. Am. Chem. Soc. 1951, 73, 1372–1373.) was substituted for ethyl 2-amino-4-methyl-5-thiazole carboxylate. The product was purified by preparatory reverse phase HPLC to yield A20. Analytical HPLC ret. time=2.17 min, [M+H]+=518.30. HPLC conditions: YMC ODS 5 μ, 5 mL/min, 4 min gradient, at 254 nm 0–100% B in A(A; 0.1% TFA in 90/10 water/methanol; B; 0.1% TFA in 10/90 water/methanol)

reactant | 4-aminosulfonylbenzylamine hydrochloride | Cl.NS(=O)(=O)C1=CC=C(CN)C=C1
reactant | 4-methylsulfonylbenzylamine hydrochloride | Cl.CS(=O)(=O)C1=CC=C(CN)C=C1
reactant | 7-aminoquinazoline | NC1=CC=C2C=NC=NC2=C1 | C8H7N3
reactant | ethyl 2-amino-4-methyl-5-thiazole carboxylate | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water methanol | O.CO
product | 4-[[[6,7-Dimethoxy-2-(7-quinazolinylamino)-4-quinazolinyl]amino]methyl]benzenesulfonamide | COC=1C=C2C(=NC(=NC2=CC1OC)NC1=CC=C2C=NC=NC2=C1)NCC1=CC=C(C=C1)S(=O)(=O)N | C25H23N7O4S
